US04254274
2-[4-(2-Oxo-1-cyclopentylidenemethyl)phenyl]propionic acid
A solution of 1.4 g of ethyl 2-[4-(2-oxo-1-cyclopentylidenemethyl)phenyl]propionate in 15 ml of dioxane and 100 ml of a 10% aqueous solution of hydrogen bromide was heated under reflux for 1 hour. After cooling, the reaction mixture was extracted with ether. The extract was washed with water and dried over anhydrous sodium sulfate. The ether was distilled off to leave an oily substance, which was then vacuum distilled to afford 0.3 g of the desired product having a boiling point of 210°-215° C./0.2 mmHg (bath temp.). This product solidified and crystallized after cooling. m.p. 106°-107° C.

reactant | ethyl 2-[4-(2-oxo-1-cyclopentylidenemethyl)phenyl]propionate | 1.4 g | O=C1C(CCC1)=CC1=CC=C(C=C1)C(C(=O)OCC)C | C17H20O3
reactant | hydrogen bromide | Br | BrH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2-Oxo-1-cyclopentylidenemethyl)phenyl]propionic acid | 0.3 g | O=C1C(CCC1)=CC1=CC=C(C=C1)C(C(=O)O)C | C15H16O3
